US05412097
To a stirred solution of 2-amino-3-nitro-4-methylpyridine (25.6 g, 167 mmol) in conc. H2SO4 (100 mL) at 0° C. was added HNO3 (7.77 mL, d=1.49) dropwise over 30 min. The mixture was warmed to r.t. for 20 min then heated to 45° C. for 90 min. The reaction mixture was cooled and poured into 500 g of ice. The resulting percipitate was filtered and air dried to give 2-amino-3,5-dinitropyridine as a yellow solid.

reactant | 2-amino-3-nitro-4-methylpyridine | 167 mmol, 25.6 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | HNO3 | 7.77 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 2-amino-3,5-dinitropyridine | NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H4N4O4
